US07514434B2
2,6-Dichloro-N-hydroxybenzenecarboximidoyl chloride (2.67 g, 11.9 mmol) and 4-ethynylbenzonitrile (1.50 g, 11.9 mmol) were dissolved in anhydrous tetrahydrofuran (150 mL) and triethylamine (2.15 mL). The mixture was stirred at room temperature for 1 h then heated at reflux for 6 h to generate the 2,6-dichlorophenyl nitrile oxide intermediate, which reacted by a 1,3-dipolar cycloaddition reaction with 4-ethynylbenzonitrile. The solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate and washed successively with water and brine. The ethyl acetate solution was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The resulting solid was purified by column chromatography on silica gel, eluting with 7:3 hexanes-ethyl acetate. The appropriate fractions were combined to give 3-(2,6-dichlorophenyl)-5-(4-cyanophenyl) isoxazole as a white solid, 0.58 g.

reactant | 2,6-Dichloro-N-hydroxybenzenecarboximidoyl chloride | 11.9 mmol, 2.67 g | ClC1=C(C(=CC=C1)Cl)C(=NO)Cl | C7H4Cl3NO
reactant | 4-ethynylbenzonitrile | 11.9 mmol, 1.50 g | C(#C)C1=CC=C(C#N)C=C1 | C9H5N
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 2.15 mL | C(C)N(CC)CC | C6H15N
product | 3-(2,6-dichlorophenyl)-5-(4-cyanophenyl) isoxazole | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1)C1=CC=C(C=C1)C#N | C16H8Cl2N2O
